US09315458B2
G) 3-hydroxy-4,5-dimethyl-6-(4-(1-methyl-1H-1,2,3-triazol-4-yl)benzyl)-2-(((2S)-tetrahydrofuran-2-yl)methyl)isoindolin-1-one
To a solution of methyl 2-formyl-3,4-dimethyl-5-(4-(1-methyl-1H-1,2,3-triazol-4-yl)benzyl)benzoate (0.13 g) in THF (3.00 mL) were added 1-((2S)-tetrahydrofuran-2-yl)methanamine (0.04 mL) and anhydrous magnesium sulfate (0.04 g), and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.11 g).

reactant | methyl 2-formyl-3,4-dimethyl-5-(4-(1-methyl-1H-1,2,3-triazol-4-yl)benzyl)benzoate | 0.13 g | C(=O)C1=C(C(=O)OC)C=C(C(=C1C)C)CC1=CC=C(C=C1)C=1N=NN(C1)C | C21H21N3O3
reactant | 1-((2S)-tetrahydrofuran-2-yl)methanamine | 0.04 mL | O1[C@@H](CCC1)CN | C5H11NO
reactant | magnesium sulfate | 0.04 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | 3.00 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-hydroxy-4,5-dimethyl-6-(4-(1-methyl-1H-1,2,3-triazol-4-yl)benzyl)-2-(((2S)-tetrahydrofuran-2-yl)methyl)isoindolin-1-one | 0.11 g | OC1N(C(C2=CC(=C(C(=C12)C)C)CC1=CC=C(C=C1)C=1N=NN(C1)C)=O)C[C@H]1OCCC1 | C25H28N4O3
